US07612067B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-5-thiazol-2-yl-thiophen-2-yl)-imidazo[1,2-b]pyridazine
Using a procedure similar to Example 32, 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.46 g, 1.17 mmol), 0.5 M 2-thiazolylzinc bromide in THF (4.7 mL, 2.35 mmol) and PdCl2(dppf) (0.043 g, 0.059 mmol) furnish the title compound (0.32 g, 0.81 mmol, 70%). 1H NMR (CDCl3), δ 0.90 (t, J=7.5 Hz, 6H), 1.76-1.94 (m, 4H), 2.18 (s, 3H), 2.52 (s, 3H), 2.53 (s, 3H), 3.31-3.40 (m, 1H), 7.70 (s, 1H), 7.27 (d, J=3.6 Hz, 1H), 7.47 (s, 1H), 7.78 (d, J=3.6 Hz, 1H). LC/MS (m/z): calcd. for C21H24N4S2 (M+H)+: 397.7; found: 397.1.

reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.17 mmol, 0.46 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
reactant | 2-thiazolylzinc bromide | 0.5 M | [Br-].S1C(=NC=C1)[Zn+]
reactant | THF | 2.35 mmol, 4.7 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.059 mmol, 0.043 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-5-thiazol-2-yl-thiophen-2-yl)-imidazo[1,2-b]pyridazine | 0.81 mmol, 0.32 g, 70% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2C)C=2SC=CN2 | C21H24N4S2
